US07323460B2
Step 9: Sodium 5-(1,1-dioxido-1,2-thiazinan-2-yl)-7-[({4-fluoro-2-[(methylamino)carbonyl]benzyl}amino)carbonyl]-1,6-naphthyridin-8-olate
Sodium hydroxide (150 μL, 0.15 mmol, 1N solution) was added to a cloudy solution of 5-(1,1-dioxido-1,2-thiazinan-2-yl)-N-{4-fluoro-2-[(methylamino)carbonyl]benzyl}-8-hydroxy-1,6-naphthyridine-7-carboxamide (73 mg, 0.15 mmol) in a 2 mL mixture of acetone, acetonitrile and water. The homogeneous bright yellow solution was allowed to stir at room temperature for 30 minutes. The solvent was removed in vacuo and dried overnight on the high vac with gentle heating to give the desired product as a bright yellow solid.

reactant | Sodium hydroxide | 0.15 mmol, 1N, 150 μL | [OH-].[Na+]
reactant | 5-(1,1-dioxido-1,2-thiazinan-2-yl)-N-{4-fluoro-2-[(methylamino)carbonyl]benzyl}-8-hydroxy-1,6-naphthyridine-7-carboxamide | 0.15 mmol, 73 mg | O=S1(N(CCCC1)C1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=C(C=C(C=C1)F)C(=O)NC)O)=O | C22H22FN5O5S
reactant | acetone | CC(=O)C | C3H6O
reactant | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | Sodium 5-(1,1-dioxido-1,2-thiazinan-2-yl)-7-[({4-fluoro-2-[(methylamino)carbonyl]benzyl}amino)carbonyl]-1,6-naphthyridin-8-olate | O=S1(N(CCCC1)C1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=C(C=C(C=C1)F)C(=O)NC)[O-])=O.[Na+] | InChI=1S/C22H22FN5O5S.Na/c1-24-21(30)16-11-14(23)7-6-13(16)12-26-22(31)18-19(29)17-15(5-4-8-25-17)20(27-18)28-9-2-3-10-34(28,32)33;/h4-8,11,29H,2-3,9-10,12H2,1H3,(H,24,30)(H,26,31);/q;+1/p-1
